US07378525B2
4-(4-o-Tolylcarbamoyl-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid dimethylamide (F-12)
The title compound was prepared according to the general procedure in Scheme 11, substituting 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid o-tolylamide for 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide, and dimethylcarbamyl chloride for ethyl chloroformate. Wt.: 35 mg (64%). 1H NMR (300 MHz, CDCl3) δ 8.63 (d, 1H), 8.45 (d, 1H), 8.33 (d, 1H), 8.05 (d, 1H), 7.80 (d, 1H), 7.71 (m, 2H), 7.54 (s, 1H), 7.30 (m, 2H), 7.20 (m, 2H), 4.68 (d, 1H), 3.43 (m, 2H), 3.30 (m, 1H), 2.71 (s, 6H), 2.68 (m, 2H), 2.34 (s, 3H), 1.62 (m, 1H), 1.31 (m, 2H); LC/MS m/z 493 (M−H)−.

reactant | 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=CC=C(C2=CC=CC=C12)S(NC1CCNCC1)(=O)=O | C22H29N3O3S
reactant | dimethylcarbamyl chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 4-(4-o-Tolylcarbamoyl-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid dimethylamide | CN(C(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)C(NC1=C(C=CC=C1)C)=O)C | C26H30N4O4S
